US08937078B2
Step C: Preparation of 2,7-dichloro-4-oxoquinazoline.
A 1.0 M aqueous solution of sodium hydroxide (19 mL, 19 mmol) was added to a mixture of 2,4,7-trichloroquinazoline (2.0 g, 8.5 mmol) and THF (30 mL) that had been cooled to 0° C. The reaction mixture was allowed to warm to rt and was stirred vigorously for 2 h. The mixture was concentrated to remove the THF, and the remaining aqueous phase was cooled to 0° C. and acidified by addition of 1.0 M aqueous HCl (25 mL). The resulting mixture was allowed to stand at 0° C. for 20 min, the solid was collected by filtration and dried to provide the titled compound (1.7 g, 92%). The MS and NMR data are in agreement with those that have been previously described: Journal of Medicinal Chemistry, 2007, 50, 2297-2300.

reactant | sodium hydroxide | 19 mmol, 19 mL | [OH-].[Na+]
reactant | 2,4,7-trichloroquinazoline | 8.5 mmol, 2.0 g | ClC1=NC2=CC(=CC=C2C(=N1)Cl)Cl | C8H3Cl3N2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2,7-dichloro-4-oxoquinazoline | 1.7 g, 92% | ClC1=NC2=CC(=CC=C2C(N1)=O)Cl | C8H4Cl2N2O
